US09216173B2
To a solution of 2-chloro-7,8-dihydroquinolin-5(6H)-one (500 mg, 2.75 mmol) in tetrahydrofuran (20 mL) at 0° C. was added methylmagnesium chloride (3.0 M in tetrahydrofuran, 0.92 ml, 2.8 mmol) over 2 minutes dropwise. Additional methylmagnesium chloride (3.0 M in tetrahydrofuran) were added at the following time intervals after the initial addition: 40 minutes (0.46 ml, 1.4 mmol); 60 minutes (0.46 ml, 1.4 mmol); and 120 minutes (0.92 ml, 2.8 mmol). At 1 hour after the final addition, the reaction mixture was quenched with saturated aqueous ammonium chloride solution (10 mL), and diluted with ethyl acetate (30 mL). The organic layer was separated and washed sequentially with saturated aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (10-50% ethyl acetate/hexanes, linear gradient) to give 2-chloro-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol. MS ESI calc'd. for C10H13ClNO [M+H]+ 198. found 198.

reactant | 2-chloro-7,8-dihydroquinolin-5(6H)-one | 2.75 mmol, 500 mg | ClC1=NC=2CCCC(C2C=C1)=O | C9H8ClNO
reactant | methylmagnesium chloride | 2.8 mmol, 3.0 M, 0.92 ml | C[Mg]Cl
reactant | methylmagnesium chloride | 3.0 M | C[Mg]Cl
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-chloro-5-methyl-5,6,7,8-tetrahydroquinolin-5-ol | ClC1=NC=2CCCC(C2C=C1)(O)C | C10H12ClNO
